US05371100
To a solution of (1R)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol (16.1 g) in tetrahydrofuran (320 ml) were added triphenylphosphine (63.3 g), benzoic acid (29.5 g) and diethyl azodicarboxylate (42.0 g) under ice-cooling. The mixture was stirred for 6 hours at room temperature under argon atmosphere. To the reaction mixture were added ethyl acetate (800 ml) and water (500 ml). The separated aqueous layer was extracted with ethyl acetate (200 ml). The combined organic layers were washed with water and a saturated saline, dried over magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=15:1→7:1) for purification to give [(1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethyl] benzoate (19.2 g) as a colorless oily substance.

reactant | (1R)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 16.1 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@@H](C)O | C10H10F2O2
reactant | triphenylphosphine | 63.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 29.5 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethyl azodicarboxylate | 42.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | [(1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethyl] benzoate | 19.2 g | C(C1=CC=CC=C1)(=O)O[C@@H](C)[C@@]1(OC1)C1=C(C=C(C=C1)F)F | C17H14F2O3
